US07402595B2
To a solution of 4-chlorophthalic anhydride (25 g) in benzene (200 ml) was added aluminum chloride (36.5 g), and the mixture was stirred at room temperature for 1 hr. and subsequently refluxed for 30 min. After cooling the reaction mixture, it was diluted with ethyl acetate (200 ml) and poured into ice water. Conc. hydrochloric acid (20 ml) was added and the mixture was stirred at room temperature for 30 min. After separating the organic layer, the layer was washed successively with 4N hydrochloric acid, water and brine, dried over sodium sulfate and concentrated until the crystals precipitated. The crystals were collected by filtration and washed with isopropyl ether to give 4-chloro-2-benzoylbenzoic acid (16 g) as colorless crystals.

reactant | 4-chlorophthalic anhydride | 25 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | aluminum chloride | 36.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-2-benzoylbenzoic acid | 16 g | ClC1=CC(=C(C(=O)O)C=C1)C(C1=CC=CC=C1)=O | C14H9ClO3
